US05470856
1,4,5,6-Tetrahydro-N-methoxy-5-pyrimidinamine dihydrochloride
A solution of 1,6-dihydro-5-(4H)-pyrimidinone O-methyloxim monohydrochloride (2.8 g, 17.1 mmol) in dry methanol was added dropwise to a stirred solution of HCl/methanol (49 ml of a 3N solution) and trimethylamine borohydride (1.36 g, 18.7 mmol) at room temperature under a nitrogen atmosphere. After 1 hour the reaction product crystallised spontaneously. Recrystallization from methanol/ethyl acetate gave a light-brown material in 38% yield (1.30 g). Mp. 214.0° C.

reactant | 1,6-dihydro-5-(4H)-pyrimidinone O-methyloxim monohydrochloride | 17.1 mmol, 2.8 g | Cl.CON=C1CN=CNC1
reactant | HCl methanol | Cl.CO
reactant | trimethylamine borohydride | 18.7 mmol, 1.36 g | [BH4-].CN(C)C
solvent | methanol | CO | CH4O
product | 1,4,5,6-Tetrahydro-N-methoxy-5-pyrimidinamine dihydrochloride | 38% yield | Cl.Cl.CONC1CN=CNC1 | InChI=1S/C5H11N3O.2ClH/c1-9-8-5-2-6-4-7-3-5;;/h4-5,8H,2-3H2,1H3,(H,6,7);2*1H
